US04804762
Preparation of N-(2-cyanoethyl)-N-methyl-2-chloroisonicotinamide (No. 2)
2 g (0.0136 mol) of 2-chloroisonicotinoyl chloride was added dropwise to a solution comprising 1.2 g (0.01136 mol) of N-methyl-N-(2-cyanoethyl)amine, 1.9 ml (0.0136 mol) of triethylamine and 30 ml of acetonitrile under cooling at 5° to 10° C. The mixture was stirred at room temperature for 2 h and then poured into water. Ethyl acetate was added thereto to conduct extraction.

reactant | 2-chloroisonicotinoyl chloride | 0.0136 mol, 2 g | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
reactant | N-methyl-N-(2-cyanoethyl)amine | 0.01136 mol, 1.2 g | CNCCC#N | C4H8N2
reactant | triethylamine | 0.0136 mol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(2-cyanoethyl)-N-methyl-2-chloroisonicotinamide | C(#N)CCN(C(C1=CC(=NC=C1)Cl)=O)C | C10H10ClN3O
